US06875765B2
(S)-3-(2-Benzyloxy-4-nitro-benzenesulfonylamino)-4,4-diethoxy-butyric acid tert-butyl ester (150 mg, 0.28 mmol) was hydrogenated with 10% Pd/C (50 mg) in 1:1 tetrahydrofuran/ethanol (10 mL) at room temperature under 50 psi hydrogen in a Parr shaker for 3 h. The reaction mixture was filtered over a celite pad, the catalyst was washed with ethanol, the organics were combined and the solvent was removed under reduced pressure to give (S)-3-(4-amino-2-hydroxy-benzenesulfonylamino)-4,4-diethoxy-butyric acid tert-butyl ester, 100 mg, 85%. RP-HPLC (10 to 90% acetonitrile in 0.1 N aqueous ammonium acetate over 10 min at 2 mL/min using a Waters Symmetry C18 150×4.6 mm column) 8.3 min.

reactant | (S)-3-(2-Benzyloxy-4-nitro-benzenesulfonylamino)-4,4-diethoxy-butyric acid tert-butyl ester | 0.28 mmol, 150 mg | C(C)(C)(C)OC(C[C@@H](C(OCC)OCC)NS(=O)(=O)C1=C(C=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1)=O | C25H34N2O9S
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 50 mg | [Pd] | Pd
solvent | tetrahydrofuran ethanol | 10 mL | O1CCCC1.C(C)O
product | (S)-3-(4-amino-2-hydroxy-benzenesulfonylamino)-4,4-diethoxy-butyric acid tert-butyl ester | C(C)(C)(C)OC(C[C@@H](C(OCC)OCC)NS(=O)(=O)C1=C(C=C(C=C1)N)O)=O | C18H30N2O7S
